US06391887B1
7-(Methoxycarbonylethenyl)-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one
A suspension of 7-bromo-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one (528 mg, 2.0 mmol), acrylic acid-methyl ester (0.36 ml, 4.0 mmol), tetrakis(triphenylphosphine)palladium (116 mg, 0.1 mmol) and triethylamine (0.56 ml, 4.0 mmol) in DMF (25 ml) is stirred for 3 hours at 120° C. The batch is diluted with ethyl acetate, washed with water, dried (Na2SO4) and concentrated by evaporation in a vacuum. Purification of the residue on silica gel with dichloromethane-ethanol yields 550 mg (99%) of product.

reactant | 7-bromo-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 2.0 mmol, 528 mg | BrC=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C12H10BrNO
reactant | acrylic acid-methyl ester | 4.0 mmol, 0.36 ml | COC(C=C)=O | C4H6O2
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(Methoxycarbonylethenyl)-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 550 mg, 99% | COC(=O)C=CC=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C16H15NO3
